US08034811B2
O-(4-Chloro-benzyl)-hydroxylamine hydrochloride
Same procedure as described for preparation 8. Starting materials: 4-Chlorobenzyl bromide and tert-butyl-N-hydroxycarbamate. 1H-NMR (DMSO-d6) δ 11.18 (bs, 3H), 7.44-7.51 (m, 4H), 5.06 (s, 2H).

reactant | 4-Chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | tert-butyl-N-hydroxycarbamate | C(C)(C)(C)OC(NO)=O | C5H11NO3
product | O-(4-Chloro-benzyl)-hydroxylamine hydrochloride | Cl.ClC1=CC=C(CON)C=C1 | InChI=1S/C7H8ClNO.ClH/c8-7-3-1-6(2-4-7)5-10-9;/h1-4H,5,9H2;1H
